US05958918
C. 2-Cyano4-(bromomethyl)pyridine
Bromine (6.88 g, 43.1 mmol) is added dropwise to a solution of triphenylphosphine (11.3 g, 43.1 mmol) in 280 mL of CH2Cl2 at 0° C. The mixture is tirred for 30 minutes at 0° C. At this time, 2-cyano-4-(hydroxymethyl)-pyridine (4.82 g, 35.9 mmol) is added and the resulting mixture is stirred for 2 hours at room temperature. The reaction mixture is diluted with CH2Cl2 and washed with water (2x) and saturated NaCl solution. The organic layer is dried with MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting in a gradient of 20% EtOAc/hexanes to 30% EtOAc/hexanes to afford the title compound (6.40 g, 32.5 mmol) as an oil.

reactant | Bromine | 43.1 mmol, 6.88 g | BrBr | Br2
reactant | triphenylphosphine | 43.1 mmol, 11.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-cyano-4-(hydroxymethyl)-pyridine | 35.9 mmol, 4.82 g | C(#N)C1=NC=CC(=C1)CO | C7H6N2O
solvent | CH2Cl2 | 280 mL | C(Cl)Cl | CH2Cl2
product | 2-Cyano4-(bromomethyl)pyridine | 32.5 mmol, 6.40 g | C(#N)C1=NC=CC(=C1)CBr | C7H5BrN2
